US07691867B2
2-(4-{[7-(benzyloxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide (836 mg, 1.60 mmol) was dissolved in trifluoroacetic acid (8 ml) and heated under reflux for 2.5 hours. The solution was concentrated and the residual oil was dissolved in methanol and neutralised with an aqueous solution of sodium bicarbonate. Water was added to the mixture and the solid recovered by filtration and dried in vacuo to yield N-(2,3-difluorophenyl)-2-{4-[(7-hydroxyquinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide (633 mg, 100% yield):

reactant | 2-(4-{[7-(benzyloxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)-N-(2,3-difluorophenyl)acetamide | 1.60 mmol, 836 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)NC=1C=NN(C1)CC(=O)NC1=C(C(=CC=C1)F)F | C26H20F2N6O2
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2,3-difluorophenyl)-2-{4-[(7-hydroxyquinazolin-4-yl)amino]-1H-pyrazol-1-yl}acetamide | 633 mg, 100% yield | FC1=C(C=CC=C1F)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)O)=O | C19H14F2N6O2
